US08114888B2
Preparation of (rac)-7-(6-Amino-5,6,7,8-tetrahydronaphthalen-2-yl)-9-cyclopropyl-6-fluoro-9H-isothiazolo[5,4-b]quinoline-3,4-dione (31)
In air, a solution of hydrogen chloride in acetic acid (1 M, 1.8 mL) is added at room temperature to a solution of methylene chloride (0.6 mL) containing (rac)-tert-Butyl[6-(9-cyclopropyl-6-fluoro-3,4-dioxo-2,3,4,9-tetrahydro-isothiazolo[5,4-b]quinolin-7-yl)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate (11.4 mg, 0.022 mmol). A yellow precipitate begins to appear within minutes of addition of the solution of hydrogen chloride. After stirring the mixture at room temperature for 18 h, additional methylene chloride is added (2 mL). The precipitate is collected by filtration, washed with methylene chloride (4×5 mL), and dried in vacuo to give pure 31 (97% purity by HPLC analysis) as a yellow powder. mp >257-258° C. dec. 1H NMR (DMSO-d6, 60° C.): δ 1.21 (m, 2H, c-Pr CH2), 1.29 (m, 2H, c-Pr CH2), 1.80 (m, 1H, H-3), 2.12 (m, 1H, H-3), 2.83 (dd, J=17.0 Hz, 10.0 Hz, 1H, H-1), 2.90 (m, 2H, H-4), 3.13 (dd, J=17.0 Hz, 6.0 Hz, 1H, H-1), 3.46 (m, 1H, H-2), 3.57 (m, 1H, c-Pr CH), 7.25 (d, J=8.0 Hz, 1H, H-8), 7.37 (s, 1H, H-5), 7.39 (d, J=8.0 Hz, 1H, H-7), 7.93 (d, JH-F=10.5 Hz, 1H, ITQ H-5), 8.01 (d, JH-F=6.5 Hz, 1H, ITQ H-8). 19F{1H} NMR (DMSO-d6, 60° C.): δ −123.3 (s). NMR spectra collected at room temperature contained broad, unresolved signals. LCMS m/z calcd for C23H20FN3O2S ([M]+) 421. Found 422 ([M+H]+). HRMS m/z calcd for C23H20FN3NaO2S ([M+Na]+) 444.1158. Found 444.1152.

reactant | hydrogen chloride | Cl | ClH
reactant | methylene chloride | 0.6 mL | C(Cl)Cl | CH2Cl2
reactant | (rac)-tert-Butyl[6-(9-cyclopropyl-6-fluoro-3,4-dioxo-2,3,4,9-tetrahydro-isothiazolo[5,4-b]quinolin-7-yl)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | 0.022 mmol, 11.4 mg | C(C)(C)(C)OC(NC1CC2=CC=C(C=C2CC1)C1=C(C=C2C(C3=C(N(C2=C1)C1CC1)SNC3=O)=O)F)=O | C28H28FN3O4S
solvent | acetic acid | 1 M, 1.8 mL | C(C)(=O)O | C2H4O2
product | (rac)-7-(6-Amino-5,6,7,8-tetrahydronaphthalen-2-yl)-9-cyclopropyl-6-fluoro-9H-isothiazolo[5,4-b]quinoline-3,4-dione | NC1CC=2C=CC(=CC2CC1)C1=C(C=C2C(C3=C(N(C2=C1)C1CC1)SNC3=O)=O)F | C23H20FN3O2S
